Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Augmentin / Flagyl
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with no significant past medical
history, who presents with chest tightness and diagnosis of PE.

Patient states that for the past week she has developed 
worsening
chest tightness. This is associated with fatigue - it has been
difficult to keep up with work. She has also been short of
breath, feeling out of breath even while talking on the phone.
She initially presented to her PCP with these symptoms earlier 
in
the week. She was found to have a superficial blood clot in her
leg and was started on aspirin, but her symptoms continued to
worsen. She returned to her PCP, and blood work showed an
elevated d-dimer. She was therefore referred for a CTA chest.
This showed a large PE, and so she was sent to the ED. 

On review of records, patient has been followed by gyn for heavy
periods. She had a normal endometrial biopsy and pap on ___.
Patient states that this has been an ongoing problem, and that
her blood count is normally around 10. She notes that last week
her hgb was 9.8 and she had an iron infusion, which she receives
regularly. 

In the ED:

Initial vital signs were notable for: T 97.9, HR 72, BP 151/74,
RR 17, 97% RA 
 
Exam notable for:
Gen: well-appearing middle-aged woman, pleasant, in no acute
distress
CV: RRR, nl s1/s2, no m/r/g/t
Pulm: CTAB, no w/r/r

Labs were notable for:

- CBC: WBC 7.8, hgb 9.9, plt 331 

- Lytes:

142 / 106 / 7     AGap=13 
-------------- 77 
4.0 \ 23 \ 0.7  

- Trop-T: <0.01 
- proBNP: 103
- Lactate:1.3

Studies performed include: Bilateral lower extremity DVT
ultrasound with no evidence of deep venous thrombosis in the
right or left lower extremity veins.

Patient was started on a heparin gtt, which was at 1300 units/hr
on transfer to the floor. 

Vitals on transfer: T 98.4, HR 63, BP 134/80, RR 18, 100% Ra 

Upon arrival to the floor, patient recounts history as above. 
She
also has a new headache. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- uterine fibroids
- metorrhagia 
- anemia 
 
Social History:
___
Family History:
Mother - ___ - healthy, anemia 
 
Physical Exam:
ADMISSION EXAM:
VITALS: T 98.4, HR 63, BP 134/80, RR 18, 100% Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round. Disconjugate gaze 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, soft systolic murmur best heard at RUSB, no
S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. Lower extremities WWP
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VS: ___ 0807 Temp: 98.1 PO BP: 126/79 HR: 62 RR: 18 O2 sat:
98% O2 delivery: Ra 
___ 0811 Dyspnea: 0 RASS: 0 Pain Score: ___   
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round. Disconjugate gaze 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, soft systolic murmur best heard at RUSB, no
S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. Lower extremities WWP
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
--------------
___ 04:21PM BLOOD WBC-7.8 RBC-3.34* Hgb-9.9* Hct-32.2* 
MCV-96 MCH-29.6 MCHC-30.7* RDW-13.2 RDWSD-46.4* Plt ___
___ 04:21PM BLOOD Neuts-63.8 ___ Monos-5.2 Eos-2.2 
Baso-1.2* Im ___ AbsNeut-4.96 AbsLymp-2.12 AbsMono-0.40 
AbsEos-0.17 AbsBaso-0.09*
___ 04:21PM BLOOD ___ PTT-31.9 ___
___ 04:21PM BLOOD Glucose-77 UreaN-7 Creat-0.7 Na-142 K-4.0 
Cl-106 HCO3-23 AnGap-13
___ 04:21PM BLOOD cTropnT-<0.01 proBNP-103
___ 04:21PM BLOOD Lactate-1.3

IMAGING
-------
- ___ CTA chest:
CTA done today: 
There is elongated relatively large filling defect involving the
proximal aspect of the right lower lobe pulmonary artery
extending distally into the bifurcation, consistent with a
pulmonary embolus. The embolus appears to be partially occlusive
in appearance. The left pulmonary ___ is patent and
unremarkable. The visualized lung parenchyma is clear. There is
no consolidation or effusion. No pathologic hilar or mediastinal
lymphadenopathy seen.
IMPRESSION: Filling defect involving the right lower lobe
pulmonary 
artery extending to the bifurcation consistent with pulmonary
embolus.

- ___ Bilateral lower extremity DVT ultrasounds:
IMPRESSION: No evidence of deep venous thrombosis in the right 
or
left lower extremity veins. 

DISCHARGE LABS
--------------
___ 10:00AM BLOOD WBC-5.7 RBC-3.40* Hgb-10.1* Hct-33.2* 
MCV-98 MCH-29.7 MCHC-30.4* RDW-13.4 RDWSD-47.8* Plt ___
___ 10:00AM BLOOD Glucose-82 UreaN-9 Creat-0.8 Na-141 K-4.0 
Cl-107 HCO3-22 AnGap-12
___ 10:00AM BLOOD Calcium-10.4* Phos-3.1 Mg-1.___ year old female with no significant past medical history, who 
presents with chest tightness and diagnosis of pulmonary 
embolism.

ACUTE/ACTIVE PROBLEMS:
# Acute pulmonary embolism 
# Chest tightness 
Patient presenting with chest tightness and outside imaging 
showing an acute pulmonary embolism.  She was started on IV 
heparin in the ED.  Reassuringly, hemodynamically stable, 
negative troponin and BNP.  LENIs negative.  She was 
transitioned to apixaban, which she will be on indefinitely.  
There was no acute indication for TTE given hemodynamic 
stability, negative troponin and BNP.
She will have outpatient follow-up with hematologist given that 
this was
unprovoked and in setting of workup for recent increase in 
vaginal bleeding.

# Metrorrhagia 
# Anemia 
Patient has been noted to have metrorrhagia for several years, 
somewhat worse recently.  There was no active bleeding noted 
during hospitalization, and hemoglobin remained stable.

# Insomnia: prescribed trazodone last week, but hasn't taken it. 
 Will continue  trazodone PRN.

TRANSITIONS OF CARE
-------------------
# Follow-up: patient will follow up with her PCP.  She will have 
outpatient follow-up with hematologist given that this was 
unprovoked and in setting of workup for recent increase in 
vaginal bleeding.  Apixaban course is at this time indefinite.

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. magnesium gluconate 30 mg (550 mg) oral DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. biotin 1 mg oral DAILY 
4. potassium gluconate 1000 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Apixaban 10 mg PO BID 
Please take this for 7 days and then take 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*68 Tablet Refills:*0 
3.  biotin 1 mg oral DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  magnesium gluconate 30 mg (550 mg) oral DAILY  
6.  potassium gluconate 1000 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pulmonary embolism
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with chest pain.  
Further testing showed that you had a blood clot in your lungs. 
You were started on a blood thinner, apixaban (Eliquis) to treat 
this, and will need to see your hematologist for further care.  
You should take 10 mg twice a day of apixaban up until ___, and 
then you should take 5 mg twice a day from that time onward.  
You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___